US07417050B2
(b) (2′R)-5′-(2-Methylthiazol-4-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine]
Prepared by a method analogous to that described for the preparation of Example 1 from (2′R)-5′-bromospiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] and 2-methyl-4-triethylstannyl-thiazole. The title compound was obtained as a colourless solid; m/e 314 (MH+).

reactant | (2′R)-5′-bromospiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | BrC=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C13H15BrN2O
reactant | 2-methyl-4-triethylstannyl-thiazole | CC=1SC=C(N1)[Sn](CC)(CC)CC
product | (2′R)-5′-(2-Methylthiazol-4-yl)spiro[1-azabicyclo[2.2.2]octane-3,2′(3′H)-furo[2,3-b]pyridine] | CC=1SC=C(N1)C=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C17H19N3OS
